US06613804B2
N-(4-bromo-3-methyl-5-isoxazolyl)-5-(benzoyloxymethyl)thiophene-2-sulfonamide was prepared as described in Example 2 from 2-chlorosulfonyl-5-(benzoyloxymethyl)thiophene (520 mg, 1.72 mmol) and 5-amino-4-bromo-3-methyl isoxazole (319 mg, 1.8 mmol). Purification by column chromatography using 10% MeOH/CHCl3) gave 238 mg of pure N-(4-bromo-3-methyl-5-isoxazolyl)-5-(benzoyloxymethyl)thiophene-2-sulfonamide as brown semisolid (31% yield, m.p. 92° C.).

reactant | 2-chlorosulfonyl-5-(benzoyloxymethyl)thiophene | 1.72 mmol, 520 mg | ClS(=O)(=O)C=1SC(=CC1)COC(C1=CC=CC=C1)=O | C12H9ClO4S2
reactant | 5-amino-4-bromo-3-methyl isoxazole | 1.8 mmol, 319 mg | NC1=C(C(=NO1)C)Br | C4H5BrN2O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-5-(benzoyloxymethyl)thiophene-2-sulfonamide | 238 mg, 31% yield | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=CC1)COC(C1=CC=CC=C1)=O)C | C16H13BrN2O5S2
